US07560471B2
D. Preparation of 4-[1-(2-ethoxyethyl)-1H-indol-3-yl]-piperidine-1-carboxylic acid ethyl ester
Under inert atmosphere, a solution of 12.5 g (0.045 mol) of 4-(1H-indol-3-yl)-piperidine-1-carboxylic acid ethyl ester in 50 ml of anhydrous DMF was added dropwise to a suspension containing 2.75 g (0.068 mol) of sodium hydride (60% in mineral oil) in 200 ml of anhydrous DMF. After stirring at room temperature for 1 hour, 6.6 ml (0.06 mol) of 1-bromo-2-ethoxyethane were added. The reaction mixture was heated at 60° C. for 3 hours. The crude mixture was poured into water and extracted with ethyl acetate. After drying, the solvent was removed under reduced pressure and 16 g of a crude oil were obtained and used in the next step without purification.

reactant | 4-(1H-indol-3-yl)-piperidine-1-carboxylic acid ethyl ester | 0.045 mol, 12.5 g | C(C)OC(=O)N1CCC(CC1)C1=CNC2=CC=CC=C12 | C16H20N2O2
reactant | sodium hydride | 0.068 mol, 2.75 g | [H-].[Na+]
reactant | 1-bromo-2-ethoxyethane | 0.06 mol, 6.6 ml | BrCCOCC | C4H9BrO
reactant | water | O | H2O
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
solvent | DMF | 200 ml | CN(C)C=O | C3H7NO
product | 4-[1-(2-ethoxyethyl)-1H-indol-3-yl]-piperidine-1-carboxylic acid ethyl ester | 16 g | C(C)OC(=O)N1CCC(CC1)C1=CN(C2=CC=CC=C12)CCOCC | C20H28N2O3
